US07932246B2
N-(1-Isobutoxyethoxy) 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide
To a solution of 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxylic acid (0.24 g, 0.6 mmol) in DMF (5 ml) were added HOBt (0.26 g, 1.7 mmol), EDCl (0.303 g, 1.6 mmol), DIPEA (1 ml, 5.8 mmol), and intermediate D (1 ml, 7.4 mmol). The mixture was stirred overnight and then poured into Et2O (250 ml). This was washed with water (50 ml), saturated sodium bicarbonate (50 ml), water (50 ml) and brine (50 ml). The extract was then dried (MgSO4), concentrated and purified by flash column chromatography (4% MeOH-DCM) to yield the title compound (0.199 g, 58%). 1H NMR (300 MHz, d6-DMSO) δ: 11.17 (1H, br s), 8.50 (1H, d, J=2.1 Hz), 7.81-7.90 (4H, m), 7.77 (1H, s), 7.42-7.50 (3H, m), 6.52 (1H, d, J=8.8 Hz), 4.95 (2H, q, J=7.0 Hz), 3.61-3.74 (6H, m), 2.88-2.99 (2H, m), 2.60-2.69 (2H, m), 1.72-1.84 (1H, m), 1.31 (3H, d, J=5.1 Hz), 0.86 (6H, d, J=6.6 Hz).

reactant | 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxylic acid | 0.6 mmol, 0.24 g | C1=C(C=CC2=CC=CC=C12)CN1CC2C(C1)CN(C2)C2=C(C=CC=N2)C(=O)O | C23H23N3O2
reactant | HOBt | 1.7 mmol, 0.26 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 1.6 mmol, 0.303 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 5.8 mmol, 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 250 ml | CCOCC | C4H10O
product | N-(1-Isobutoxyethoxy) 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide | 0.199 g, 58% | C(C(C)C)OC(C)ONC(=O)C=1C=CC=NC1N1CC2CN(CC2C1)CC1=CC2=CC=CC=C2C=C1 | C29H36N4O3
